US05380746
2-(1H-Indol-3-yl)-3-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-maleinimide
The 2-(1-tert. -butoxycarbonyl-1H-indol-3-yl)-3-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-N-methylmaleinimide used as starting material is prepared as follows: A mixture of 0.9 g (2.03 mmol) 2-(1-tert.-butoxycarbonyl-1H-indol-3-yl)-3-(1H-indol-3-yl)-N-methylmaleinimide (Tetrahedron, 44, 2887/1988), 0,3 g potassium carbonate and 0.3 g (2.4 mmol) 3-dimethylaminopropyl chloride in 10 ml acetone is stirred for 12 hours at ambient temperature and for 8 hours under reflux. After cooling, the reaction mixture is poured into water and extracted with ethyl acetate. The red extract is evaporated and the residue flash chromatographed on silica gel (Merck Type 7734) using, as elution agent, a mixture of toluene/ethanol (10+1.5 v/v). The desired product is obtained in the form of a red oil and used as such in the above reaction. Yield 0.8 g (74% of theory); RF=0,20 (toluene/ethanol 1:2 v/v).

reactant | 2-(1-tert. -butoxycarbonyl-1H-indol-3-yl)-3-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-N-methylmaleinimide | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=1C(=O)N(C(C1C1=CN(C2=CC=CC=C12)CCCN(C)C)=O)C | C31H34N4O4
reactant | 2-(1-tert.-butoxycarbonyl-1H-indol-3-yl)-3-(1H-indol-3-yl)-N-methylmaleinimide | 2.03 mmol, 0.9 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=1C(=O)N(C(C1C1=CNC2=CC=CC=C12)=O)C | C26H23N3O4
reactant | potassium carbonate | 0,3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-dimethylaminopropyl chloride | 2.4 mmol, 0.3 g | CN(CCCCl)C | C5H12ClN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(1H-Indol-3-yl)-3-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-maleinimide | N1C=C(C2=CC=CC=C12)C=1C(=O)NC(C1C1=CN(C2=CC=CC=C12)CCCN(C)C)=O | C25H24N4O2
